US06743795B1
Preparation of 6-chloro-2-(1H-6-indazolylamino)-3-nitropyridine
To the solution of 2,6-dichloro-3-nitropyridine (4 g) and 6-aminoindazole (2.8 g) in acetonitrile (50 ml) was added triethylamine (3.2 ml), and then the solution was reacted at 35-40° C. for 12 hr. The reaction mixture was cooled at room temperature with slowly adding H2O (20 ml), and then reacted at 20-25° C. for 1 hr. The reaction mixture was filtered, washed with acetonitrile (6 ml) and H2O (15 ml), and then dried at 50° C. in vacuo to obtain the desired compound (4.4 g, 73%).

reactant | 2,6-dichloro-3-nitropyridine | 4 g | ClC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | 6-aminoindazole | 2.8 g | NC1=CC=C2C=NNC2=C1 | C7H7N3
reactant | triethylamine | 3.2 ml | C(C)N(CC)CC | C6H15N
reactant | H2O | 20 ml | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 6-chloro-2-(1H-6-indazolylamino)-3-nitropyridine | 4.4 g, 73% | ClC1=CC=C(C(=N1)NC1=CC=C2C=NNC2=C1)[N+](=O)[O-] | C12H8ClN5O2
